US09126931B2
3-(3-Hydroxy-pyridin-4-yl)-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one
Mixture of 7-methoxy-3-(3-methoxymethoxy-pyridin-4-yl)-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one (Compound GT15-8, 430 mg) and 4 N hydrochloric acid dioxane solution (5 ml) was heated and stirred at room temperature for 1.5 hrs. The reaction mixture was neutralized with 2 N aqueous solution of sodium hydroxide. The resulting mixture was extracted with the mixture of DCM and MeOH (DCM:MeOH=9:1). The residues obtained after concentration under reduced pressure were purified by silica gel column (DCM/MeOH) to obtain the title compound (280 mg, 75%).

reactant | 7-methoxy-3-(3-methoxymethoxy-pyridin-4-yl)-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 430 mg | COC1=CC=C2CC(C(C(C2=C1)(C)C)=O)C1=C(C=NC=C1)OCOC | C20H23NO4
reactant | hydrochloric acid dioxane | 4 N, 5 ml | O1CCOCC1.Cl
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(3-Hydroxy-pyridin-4-yl)-7-methoxy-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 280 mg, 75% | OC=1C=NC=CC1C1C(C(C2=CC(=CC=C2C1)OC)(C)C)=O | C18H19NO3
